US07855297B2
By the reaction and treatment in the same manner as in Example 1 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.5 g) and [(4-methoxyphenyl)methyl](4-methoxyphenyl)amine (0.88 g) as starting materials, N-[(4-methoxyphenyl)methyl]-N-(4-methoxyphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.72 g) was obtained. melting point: 89-90° C.

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.5 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | [(4-methoxyphenyl)methyl](4-methoxyphenyl)amine | 0.88 g | COC1=CC=C(C=C1)CNC1=CC=C(C=C1)OC | C15H17NO2
product | N-[(4-methoxyphenyl)methyl]-N-(4-methoxyphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.72 g | COC1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)OC | C27H29NO4
